US06967256B2
Synthesis of 3,4-bis-phenylethynyl-2,5-dihydrofuran (three-step procedure)
1.04 g (0.63 mmol) of the diyne complex was dissolved in 5 mL of THF and added by pipette dropwise to LiHMDS (210 mg, 1.26 mmol) dissolved in 20 mL of THF. After 45 minutes, the reaction mixture was concentrated to a dark brown oil. Pentane was added and the mixture was filtered through Celite. The filtrate was transferred to a 100 mL round bottom flask, concentrated and dissolved in 10 mL of toluene. 640 mg (3.76 mmol) of 2-phenylphenol dissolved in 5 mL of toluene was added, the color of the solution changes from green-brown to deep red. After 1 h, 670 mg (3.76 mmol) of diphenylacetylene was added. After 1 h, 1M HCl was added and after typical work-up and column chromatography, 51 mg (30%) of the enediyne was isolated as a pale yellow solid, see spectral data above.

reactant | LiHMDS | 1.26 mmol, 210 mg | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 2-phenylphenol | 3.76 mmol, 640 mg | C1(=CC=CC=C1)C1=C(C=CC=C1)O | C12H10O
reactant | diphenylacetylene | 3.76 mmol, 670 mg | C1(=CC=CC=C1)C#CC1=CC=CC=C1 | C14H10
reactant | HCl | 1M | Cl | ClH
reactant | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 3,4-bis-phenylethynyl-2,5-dihydrofuran | C1(=CC=CC=C1)C#CC=1COCC1C#CC1=CC=CC=C1 | C20H14O
